US08877760B2
A solution of 3,5-dichloropyrazine-2-carbonitrile (150 mg, 0.862 mmol), (R)-2-amino-2-phenylacetamide hydrochloride (160 mg, 0.858 mmol) and DIEA (0.400 mL, 2.30 mmol) in DMF (5 mL) was stirred at room temperature for 6 h. Water and EtOAc were added. Organic phase was separated, washed with 1N HCl, then with 5% NaHCO3, dried over Na2SO4, concentrated in vacuo to give (R)-2-(6-chloro-5-cyanopyrazin-2-ylamino)-2-phenylacetamide (245 mg).

reactant | 3,5-dichloropyrazine-2-carbonitrile | 0.862 mmol, 150 mg | ClC=1C(=NC=C(N1)Cl)C#N | C5HCl2N3
reactant | (R)-2-amino-2-phenylacetamide hydrochloride | 0.858 mmol, 160 mg | Cl.N[C@@H](C(=O)N)C1=CC=CC=C1
reactant | DIEA | 2.30 mmol, 0.400 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | Water | O | H2O
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | (R)-2-(6-chloro-5-cyanopyrazin-2-ylamino)-2-phenylacetamide | 245 mg | ClC1=C(N=CC(=N1)N[C@@H](C(=O)N)C1=CC=CC=C1)C#N | C13H10ClN5O
